US09445594B2
Preparation of 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)prop-2-yn-1-ol (C24)
In a 1000 mL flask, 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (25.0 g, 65.3 mmol) and propargyl alcohol (4.4 g, 78.36 mmol) were diluted with triethylamine (250 mL). Then bis(triphenylphosphine)palladium(II) chloride (0.915 g, 0.0200 mmol), copper(I) iodide (0.320 g, 0.169 mmol) and triphenylphosphine (0.102 g, 0.150 mmol) were added. The reaction was heated to 70° C. and stirred for 16 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate and filtered through Celite®. A Brine solution was added to the filtrate and stirred for 15 minutes. The layers were separated and the aqueous layer further extracted with ethyl acetate. The combined organics were dried over magnesium sulfate, filtered, and concentrated. The resulting residue was purified by flash column chromatography using 15% ethyl acetate/petroleum ether as eluent to afford the title compound as yellow solid (8.00 g, 33%): mp 110-113° C.; 1H NMR (400 MHz, CDCl3) δ 8.57 (s, 1H), 8.15 (d, J=8.4 Hz, 2H), 7.80 (d, J=9.0 Hz, 2H), 7.54 (d, J=8.4 Hz, 2H), 7.39 (d J=8.4, 2H), 4.53 (d, J=4.8, 2H), 1.80-1.74 (brs, 1H); ES+API m/z 360 ([M+H]+).

reactant | 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 65.3 mmol, 25.0 g | BrC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C15H9BrF3N3O
reactant | propargyl alcohol | 78.36 mmol, 4.4 g | C(C#C)O | C3H4O
solvent | triethylamine | 250 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.0200 mmol, 0.915 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.169 mmol, 0.320 g | [Cu]I
catalyst | triphenylphosphine | 0.150 mmol, 0.102 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)prop-2-yn-1-ol | 8.00 g, 33% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C#CCO)(F)F | C18H12F3N3O2
